US09259001B2
22.0 g (75.0 mmol) of 5-methyl-3-(methylthio)-2-(trifluoroacetylamino)benzoic acid and 9.44 g (225 mmol) of lithium hydroxide monohydrate were heated under reflux in a mixture of 200 ml of methanol and 30 ml of water for 4 h. For work-up, the contents were cooled and freed of the solvents. The residue was taken up in water and the mixture was acidified to pH<3 with dilute hydrochloric acid. The mixture was stirred at a temperature of 0° C.-5° C. for 30 minutes and then filtered. 15.0 g of 2-amino-5-methyl-3-(methylthio)benzoic acid of a purity of >95% by weight were obtained as residue.

reactant | 5-methyl-3-(methylthio)-2-(trifluoroacetylamino)benzoic acid | 75.0 mmol, 22.0 g | CC=1C=C(C(=C(C(=O)O)C1)NC(C(F)(F)F)=O)SC | C11H10F3NO3S
reactant | lithium hydroxide monohydrate | 225 mmol, 9.44 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 2-amino-5-methyl-3-(methylthio)benzoic acid | 15.0 g | NC1=C(C(=O)O)C=C(C=C1SC)C | C9H11NO2S
